US05144034
Liquid ammonia is passed into a solution of cis-(±)-2-amino-6-chloro-9-[4-(hydroxymethyl)-2-cyclopenten-1-yl]-9H-purine (0.265 g, 1 mmol) in methanol (10 mL) at -80° C. in a bomb. The bomb is sealed and heated at 75° C. for 48 hours. The bomb is cooled to room temperature and the ammonia and methanol are evaporated. The residue is purified by silica gel chromatography using 15:1 chloroform methanol as eluent to give cis-(±)-2,6-diamino-9-[4-(hydroxymethyl)-2-cyclo-penten-1-yl]-9H-purine (0.196 g, 80%). M.pt. 152°-155° C. MS (30 ev, 200° C.): m/e 246 (M+), 229 (M+-17), 216 (M+-30).

reactant | ammonia | N | H3N
reactant | cis-(±)-2-amino-6-chloro-9-[4-(hydroxymethyl)-2-cyclopenten-1-yl]-9H-purine | 1 mmol, 0.265 g | NC1=NC(=C2N=CN(C2=N1)[C@@H]1C=C[C@@H](C1)CO)Cl | C11H12ClN5O
solvent | methanol | 10 mL | CO | CH4O
product | cis-(±)-2,6-diamino-9-[4-(hydroxymethyl)-2-cyclo-penten-1-yl]-9H-purine | 0.196 g, 80% | NC1=NC(=C2N=CN(C2=N1)[C@@H]1C=C[C@@H](C1)CO)N | C11H14N6O
